US05055482
A mixture of (RS)-3-carbamoyl-4-(2-chloro-1,1,2-trifluoroethoxy)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (0.75g) and phosphorus oxychloride (15ml) was heated at 80° C. for 6 hours. Water (100ml) and dichloromethane (50ml) were added to the cooled mixture and the layers were separated. The aqueous layer was extracted with dichloromethane (2x50ml) and the combined organic layers were washed with aqueous sodium hydrogen carbonate solution (1M; 30ml), dried over magnesium sulfate, and evaporated to give (RS)-4-(2-chloro-1,1,2-trifluoroethoxy)-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyanopyrazole (0.4g) as an off-white crystalline solid, m.p. 99°-101° C.

reactant | (RS)-3-carbamoyl-4-(2-chloro-1,1,2-trifluoroethoxy)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 0.75g | C(N)(=O)C1=NN(C=C1OC(C(F)Cl)(F)F)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H6Cl3F6N3O2
reactant | phosphorus oxychloride | 15ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Water | 100ml | O | H2O
solvent | dichloromethane | 50ml | ClCCl | CH2Cl2
product | (RS)-4-(2-chloro-1,1,2-trifluoroethoxy)-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyanopyrazole | 0.4g | ClC(C(OC=1C(=NN(C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)(F)F)F | C13H4Cl3F6N3O
